US05753664
3,5-Dimethyl-2-[4-[4-(2-dimethylaminoethoxy)benzoyl]benzylthio]-4(3H)-quinazolinone hydrochloride
2-[4-(4-Hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (306 mg), 2-dimethylaminoethyl chloride hydrochloride (218 mg), and potassium carbonate (316 mg) were dissolved in DMF (5 ml) and the solution was stirred at 80° C. for 20 hours. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, and dried. Then, hydrogen chloride/ethyl acetate was added and the precipitated hydrochloride was collected by filtration to provide the title compound as colorless solid (193 mg).

reactant | 2-[4-(4-Hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 306 mg | OC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C24H20N2O3S
reactant | 2-dimethylaminoethyl chloride hydrochloride | 218 mg | Cl.CN(CCCl)C
reactant | potassium carbonate | 316 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-(2-dimethylaminoethoxy)benzoyl]benzylthio]-4(3H)-quinazolinone hydrochloride | 193 mg | Cl.CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCN(C)C)=O | InChI=1S/C28H29N3O3S.ClH/c1-19-6-5-7-24-25(19)27(33)31(4)28(29-24)35-18-20-8-10-21(11-9-20)26(32)22-12-14-23(15-13-22)34-17-16-30(2)3;/h5-15H,16-18H2,1-4H3;1H
